Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: CARDIOTHORACIC
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Chest burning
 
Major Surgical or Invasive Procedure:
___ - Coronary artery bypass grafting x 5, left internal 
mammary artery graft to the left anterior descending, reverse 
saphenous vein graft to the posterior descending artery, 
posterior left ventricular branch, marginal branch and ramus 
intermedius.

 
History of Present Illness:
Mr. ___ is an ___ year old man with a history of chronic 
kidney disease and hypertension. He presented with chest 
discomfort that started at rest. He was watching TV and had 
light activity 1.5 hours before ED evaluation. He has had no 
history of similar pain in the past. He described the pain as 
acute onset of left-sided sharp stabbing discomfort without any 
radiation to the jaw to the arm or to the back. He denied any 
nausea, vomiting, or diaphoresis. He did not feel short of 
breath. Approximately ___ hours after the initiation of the 
pain, his symptoms finally subsided after taking 2 nitroglycerin 
in the emergency room.  His EKG showed a normal sinus rhythm 
with no acute ischemic changes. His chest x-ray showed no 
abnormality. He was admitted for rule out myocardial infarction. 
A cardiac catheterization revealed three vessel coronary artery 
disease. He was referred for surgical evaluation. 

 
Past Medical History:
Benign Prostatic Hyperplasia
Chronic Kidney Disease, baseline Cre 2.8
Hypertension
Hypothyroidism
Osteoarthritis

 
Social History:
___
Family History:
Mother - heart disease in her ___, died at ___
Father - died at ___ no history of heart disease
 
Physical Exam:
97.8
PO 162 / 74 55 18 99 Ra 

Height:  70"   Weight: 73.4 kg

General: NAD, appears younger than stated age
Skin: Dry [x] intact [x]
HEENT: PERRLA [] EOMI [x] left lens implant
Neck:  Supple [] Full ROM [x]
Chest: Lungs clear bilaterally [x]
Heart: RRR [x] Irregular [] Murmur []  
Abdomen: Soft [x] non-distended [x] non-tender [x] bowel sounds 
+ [x]
Extremities: Warm [x], well-perfused [x]  Edema [] _none_
Varicosities: None [x]
Neuro: Grossly intact [x]
Pulses:
DP           Right: 2+   Left: 2+
___           Right: 2+   Left: 2+
Radial       Right: 2+   Left: 2+

Carotid Bruit: no bruits

 
Pertinent Results:
Transthoracic Echocardiogram ___
The left atrial volume index is normal. The estimated right 
atrial pressure is ___ mmHg. Normal left ventricular wall 
thickness, cavity size, and regional/global systolic function 
(biplane LVEF = 66 %). The estimated cardiac index is normal 
(>=2.5L/min/m2). There is no ventricular septal defect. Right 
ventricular chamber size and free wall motion are normal. The 
diameters of aorta at the sinus, ascending and arch levels are 
normal. The aortic valve leaflets are moderately thickened. The 
mitral valve leaflets are structurally normal. There is no 
mitral valve prolapse. Mild (1+) mitral regurgitation is seen. 
The estimated pulmonary artery systolic pressure is normal. 
There is no pericardial effusion. 

IMPRESSION: Normal biventricular cavity sizes with preserved 
regional and global biventricular systolic function. Mild mitral 
regurgitation.
.

 
Brief Hospital Course:
He was admitted on ___ and underwent routine preoperative 
testing and evaluation. He remained stable and was taken to the 
operating room on ___. He underwent coronary artery bypass 
grafting x 5. Please see operative note for full details. He 
tolerated the procedure well and was transferred to the CVICU in 
stable condition for recovery and invasive monitoring. 
  
He weaned from sedation, awoke neurologically intact and was 
extubated on POD 1.  Beta blocker was initiated and he was 
diuresed toward his preoperative weight. He remained 
hemodynamically stable and was transferred to the telemetry 
floor for further recovery. He was started on betablocker and 
Lasix and diuresed toward his pre-operative weight. After his 
foley was removed, he was found to have urinary retention and 
failed repeated voiding trials. His foley was replaced and he 
will be discharged to home with the foley. He will need urology 
follow-up with his urologist Dr. ___. He was evaluated by the 
physical therapy service for assistance with strength and 
mobility. By the time of discharge on POD#6 he was ambulating 
freely, the wound was healing, and pain was controlled with oral 
analgesics. His right leg staples will be removed at this wound 
check visit with cardiac surgery. He was discharged to home in 
good condition with appropriate follow up instructions.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. Cyanocobalamin 2500 mcg PO DAILY 
3. Levothyroxine Sodium 75 mcg PO DAILY 

 
Discharge Medications:
1.  Acetaminophen ___ mg PO Q6H:PRN Pain - Mild  
2.  Atorvastatin 40 mg PO QPM 
RX *atorvastatin 40 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0 
3.  Docusate Sodium 100 mg PO BID  
4.  Metoprolol Tartrate 12.5 mg PO Q8H 
RX *metoprolol tartrate 25 mg 0.5 (One half) tablet(s) by mouth 
every 8 hours Disp #*90 Tablet Refills:*0 
5.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain: 
moderate/severe 
RX *oxycodone 5 mg ___ tablet(s) by mouth every 4 hours Disp 
#*72 Tablet Refills:*0 
6.  Polyethylene Glycol 17 g PO DAILY  
7.  Ranitidine 150 mg PO DAILY 
RX *ranitidine HCl 150 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0 
8.  Aspirin EC 81 mg PO DAILY 
RX *aspirin [Aspir-81] 81 mg 1 tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*0 
9.  Cyanocobalamin 2500 mcg PO DAILY  
10.  Levothyroxine Sodium 75 mcg PO DAILY 
RX *levothyroxine 75 mcg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0 
11.Outpatient Physical Therapy
Rolling Walker
DX:s/p CABG x5
Px:good
___ months 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Coronary Artery Disease

Benign Prostatic Hyperplasia
Chronic Kidney Disease, baseline Cre 2.8
Hypertension
Hypothyroidism
Osteoarthritis

 
Discharge Condition:
Alert and oriented x3 non-focal 
Ambulating with steady gait
Foley in place for urinary retension
Incisional pain managed with oral analgesics

Incisions: 
Sternal - healing well, no erythema or drainage 
Leg Right/Left - healing well, no erythema or drainage. Right 
leg Staples intact 
Edema- none

 
Discharge Instructions:
Please shower daily including washing incisions gently with mild 
soap, no baths or swimming until cleared by surgeon. Look at 
your incisions daily for redness or drainage
Please NO lotions, cream, powder, or ointments to incisions 
Each morning you should weigh yourself and then in the evening 
take your temperature, these should be written down on the 
chart.
****call MD if weight goes up more than 3 lbs in 24 hours or 5 
lbs over  5 days****.
No driving for approximately one month and while taking 
narcotics, will be discussed at follow up appointment with 
surgeon when you will be able to drive 
No lifting more than 10 pounds for 10 weeks
**Please call cardiac surgery office with any questions or 
concerns ___. Answering service will contact on call 
person during off hours**

 
Followup Instructions:
___